US07625901B2
Step B. Benzyl [(9S)-11-oxo-9-phenyl-6,10-diazaspiro[4.6]undec-10-yl]acetate
To a suspension of sodium hydride (0.147 g, 6.14 mmol) in THF (10 mL) was added (9S)-9-phenyl-6,10-diazaspiro[4.6]undecan-11-one (0.300 g, 1.23 mmol) at ambient temperature. The reaction was warmed to 60° C. for 2 h, then cooled to ambient temperature. Benzyl bromoacetate (0.309 g, 1.35 mmol) was added dropwise to the reaction. After 1 h, the mixture was quenched with a saturated aqueous ammonium chloride solution. The mixture was concentrated in vacuo then partitioned between H2O and CH2Cl2. The aqueous phase was then extracted several times with CH2Cl2. The combined organic extracts were washed with saturated brine, then dried over MgSO4, filtered and concentrated in vacuo The residue was purified by silica gel chromatography, eluting with a gradient of EtOAc:hexane-0:100 to 100:0, to yield the title compound. MS: m/z=393 (M+1).

reactant | sodium hydride | 6.14 mmol, 0.147 g | [H-].[Na+]
reactant | (9S)-9-phenyl-6,10-diazaspiro[4.6]undecan-11-one | 1.23 mmol, 0.300 g | C1(=CC=CC=C1)[C@@H]1CCNC2(CCCC2)C(N1)=O | C15H20N2O
reactant | Benzyl bromoacetate | 1.35 mmol, 0.309 g | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | Benzyl [(9S)-11-oxo-9-phenyl-6,10-diazaspiro[4.6]undec-10-yl]acetate | O=C1N([C@@H](CCNC12CCCC2)C2=CC=CC=C2)CC(=O)OCC2=CC=CC=C2 | C24H28N2O3
